US09301951B2
Intermediate 65b: 6-(2-amino-5-chlorophenyl)-N-(3-(trifluoromethyl)benzyl)pyrimidin-4-amine
Into a 50-mL round bottom flask, was placed a solution of 4-chloro-2-(6-chloropyrimidin-4-yl)benzenamine (1.5 g, 6.25 mmol, 1.00 equiv) in N,N-dimethylformamide (30 mL), potassium carbonate (2.7 g, 19.54 mmol, 3.00 equiv), 3-(trifluoromethyl)benzylamine (1.7 g, 9.70 mmol, 1.50 equiv). The resulting solution was stirred overnight at 80° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of ethyl acetate. The resulting mixture was washed with 2×20 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:2). This resulted in 1 g (42%) of N-(3-(trifluoromethyl)benzyl)-6-(2-amino-5-chlorophenyl)pyrimidin-4-amine as yellow oil

reactant | 4-chloro-2-(6-chloropyrimidin-4-yl)benzenamine | 6.25 mmol, 1.5 g, 1.00 equiv | ClC1=CC(=C(C=C1)N)C1=NC=NC(=C1)Cl | C10H7Cl2N3
reactant | potassium carbonate | 19.54 mmol, 2.7 g, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(trifluoromethyl)benzylamine | 9.70 mmol, 1.7 g, 1.50 equiv | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 6-(2-amino-5-chlorophenyl)-N-(3-(trifluoromethyl)benzyl)pyrimidin-4-amine | NC1=C(C=C(C=C1)Cl)C1=CC(=NC=N1)NCC1=CC(=CC=C1)C(F)(F)F | C18H14ClF3N4
